US05104888
Ethyl 2-chloro-3-[4-(6-ethoxy-2,5,7,8-tetramethylchroman-2-ylmethoxy)phenyl]propionate
The procedure described in Preparation 64 was repeated, except that 9.5 g of 2-(4-aminophenoxymethyl)-6-ethoxy-2,5,7,8-tetramethylchroman (prepared as described in Preparation 63), 10 ml of concentrated hydrochloric acid, 2.4 g of sodium nitrite, 26.8 g of ethyl acrylate, 0.4 g of cuprous oxide and 100 ml of acetone were used as the starting materials, to give the title compound.

reactant | 2-(4-aminophenoxymethyl)-6-ethoxy-2,5,7,8-tetramethylchroman | 9.5 g | NC1=CC=C(OCC2(OC3=C(C(=C(C(=C3CC2)C)OCC)C)C)C)C=C1 | C22H29NO3
reactant | hydrochloric acid | 10 ml | Cl | ClH
reactant | sodium nitrite | 2.4 g | N(=O)[O-].[Na+]
reactant | ethyl acrylate | 26.8 g | C(C=C)(=O)OCC | C5H8O2
solvent | acetone | 100 ml | CC(=O)C | C3H6O
product | Ethyl 2-chloro-3-[4-(6-ethoxy-2,5,7,8-tetramethylchroman-2-ylmethoxy)phenyl]propionate | ClC(C(=O)OCC)CC1=CC=C(C=C1)OCC1(OC2=C(C(=C(C(=C2CC1)C)OCC)C)C)C | C27H35ClO5
